US05011839
2-i-propyl-4-bromo-5-(2-methoxy-1-naphthylmethylamino)-3(2H)pyridazinone (Compound No. 26)
A mixture comprising 1.48 g of 2-i-propyl-4,5-dibromo-3(2H)pyridazinone, 1.68 g of 2-methoxy-1-naphthylmethylamine hydrochloride, 1.33 g of sodium carbonate, 30 ml of water and 30 ml of 1,4-dioxane, was refluxed under stirring overnight. Then, the solvent was distilled off under reduced pressure, and water was poured to the residue thus obtained. The mixture was extracted with ethyl acetate. The extract was washed sequentially with a 2 wt% hydrochloric acid aqueous solution, water and a saturated sodium chloride aqueous solution and then dried over sodium sulfate. Then, the solvent was distilled off. The residual solid thus obtained was crystallized from ethyl acetate/n-hexane to obtain 1.18 g of the above identified compound as colorless crystals having a melting point of from 160° to 161° C.

reactant | 2-i-propyl-4,5-dibromo-3(2H)pyridazinone | 1.48 g | C(C)(C)N1N=CC(=C(C1=O)Br)Br | C7H8Br2N2O
reactant | 2-methoxy-1-naphthylmethylamine hydrochloride | 1.68 g | Cl.COC1=C(C2=CC=CC=C2C=C1)CN
reactant | sodium carbonate | 1.33 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 30 ml | O | H2O
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-i-propyl-4-bromo-5-(2-methoxy-1-naphthylmethylamino)-3(2H)pyridazinone | C(C)(C)N1N=CC(=C(C1=O)Br)NCC1=C(C=CC2=CC=CC=C12)OC | C19H20BrN3O2
